US07816522B2
(178d) (R) and (S)-2-(3-{(4-carbamimidoylphenylamino)-[2-fluoro-4-(2-hydroxyethoxy)-5-methoxyphenyl]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid
The same procedure was carried out as in Examples (3f)-(3h), except that (2-{4-[2-(t-butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene)carbamic acid methyl ester and 2-hydrazinobenzoic acid hydrochloride were used instead of respectively the {2-[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in Example (3f) and 2-hydrazinopyrimidine in Example (3f), to give the title compound as a white solid.

reactant | (2-{4-[2-(t-butyldimethylsilanyloxy)ethoxy]-2-fluoro-5-methoxyphenyl}-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene)carbamic acid methyl ester | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C=C(C(=C1)OC)OCCO[Si](C)(C)C(C)(C)C)F)SC)=O | C29H37FN4O6SSi
reactant | 2-hydrazinobenzoic acid hydrochloride | Cl.N(N)C1=C(C(=O)O)C=CC=C1
reactant | {2-[2-fluoro-3-(2-fluoroethoxy)-5-methoxyphenyl]-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)OC)OCCF)F)SC)=O | C23H22F2N4O5S
reactant | 2-hydrazinopyrimidine | N(N)C1=NC=CC=N1 | C4H6N4
product | (S)-2-(3-{(4-carbamimidoylphenylamino)-[2-fluoro-4-(2-hydroxyethoxy)-5-methoxyphenyl]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid | C(N)(=N)C1=CC=C(C=C1)N[C@H](C1=NN(C(N1)=O)C1=C(C(=O)O)C=CC=C1)C1=C(C=C(C(=C1)OC)OCCO)F | C26H25FN6O6
